US05037835
1-(4-Amino-3-pyridinyl)-2,3-dihydro-1H-indole
A solution of 2,3-dihydro-1-(4-nitro-3-pyridinyl)-1H-indole, N-oxide (4.5 g) in 250 ml ethanol containing 0.5 g platinum oxide was hydrogenated at 50 psi (pounds per square inch) for five hours and thereafter filtered and concentrated to an oil. This oil was purified by flash chromatography (silica, 10% methanol in dichloromethane) to give 4 g oil. This oil was converted to the hydrochloride salt and recrystallized twice from ethanol/ether to give 3 g crystals, d 274°.

reactant | 2,3-dihydro-1-(4-nitro-3-pyridinyl)-1H-indole | [N+](=O)([O-])C1=C(C=NC=C1)N1CCC2=CC=CC=C12 | C13H11N3O2
solvent | ethanol | 250 ml, 0.5 g | C(C)O | C2H6O
product | 1-(4-Amino-3-pyridinyl)-2,3-dihydro-1H-indole | 4 g | NC1=C(C=NC=C1)N1CCC2=CC=CC=C12 | C13H13N3
